US05663200
7c) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid
2.5 g (4.54 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxy-phenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid in 42 ml of DMF are silylated, under a protective gas, with 3.15 g (20.9 mmol) of tert-butyldimethylchlorosilane and 2.53 g (37.3 mmol) of imidazole at RT for 20 h. The reaction mixture is diluted with ethyl acetate, and this mixture is washed with sat. NaHCO3 solution, water and saline. The aqueous phases are exitacted 2× with ethyl acetate, and the organic phases are dried with Na2SO4 and evaporated. The residue is dissolved in 50 ml of methanol and 13 ml of THF, and this solution is treated with 3.8 g of potassium carbonate and 13 ml of water, and stirred at RT for 1 h. Subsequently, the reaction mixture is partially evaporated and the residue is diluted with ice-cold 10% citric acid solution; this mixture is then extracted 3× with ethyl acetate. The organic phases are washed with 2 portions of water and saline, dried with Na2SO4 and evaporated. Column chromatography (SiO2, hexane/ethyl acetate, 2:1) results in the pure title compound: TLC Rf (C)=0,13; tRet (II)=21.7 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxy-phenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | 4.54 mmol, 2.5 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C32H39NO7
reactant | tert-butyldimethylchlorosilane | 20.9 mmol, 3.15 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 37.3 mmol, 2.53 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 42 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H53NO7Si
